US07615641B2
To a solution of 1-octacosanyl nicotinate hydrochloride in warm CHCl3 was added saturated NaHCO3 slowly. The aqueous layer was kept basic and the mixture was stirred for 1 hour at room temperature. The organic layer was then separated, washed with deionized water, brine and dried over anhydrous Na2SO4. After the removal of the organic solvent, the residue was crystallized with CHCl3 to give 1-octacosanyl nicotinate as a pale yellow waxy solid, mp: 65-70° C.

reactant | 1-octacosanyl nicotinate hydrochloride | Cl.C(C1=CN=CC=C1)(=O)OCCCCCCCCCCCCCCCCCCCCCCCCCCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-octacosanyl nicotinate | C(C1=CN=CC=C1)(=O)OCCCCCCCCCCCCCCCCCCCCCCCCCCCC | C34H61NO2
